US07517875B2
A solution of 1-hydroxy-1-oxo-1H-1λ5-benzo[d][1,2]iodoxol-3-one (846 mg, 3.02 mmol) in dimethylsulfoxide (10 ml) was added to a solution of {2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazol-5-yl}-methanol (807 mg, 2.01 mmol) in dimethylsulfoxide (10 ml), and the mixture was stirred at room temperature for 9 hours. The reaction mixture was poured into ice water (200 ml) and stirred at room temperature for 30 minutes, after which ethyl acetate was added and stirring was continued vigorously for 10 minutes for extraction. After washing with saturated aqueous sodium bicarbonate and saturated brine, the mixture was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate/methanol=9/1). This was further purified by preparative HPLC to obtain 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-5-carboaldehyde.

reactant | 1-hydroxy-1-oxo-1H-1λ5-benzo[d][1,2]iodoxol-3-one | 3.02 mmol, 846 mg | OI1(OC(C2=C1C=CC=C2)=O)=O | C7H5IO4
reactant | {2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazol-5-yl}-methanol | 2.01 mmol, 807 mg | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CNC1=NC2=C(N1)C=CC(=C2)CO | C25H28N4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-5-carboaldehyde | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CNC1=NC2=C(N1)C=CC(=C2)C=O | C25H26N4O
